US06831080B2
Step F: 1-(3-Morpholin-4-yl-phenyl)ethylamine hydrochloride
To a solution of [1-(3-morpholin-4-yl-phenyl)ethyl]carbamic acid tert-butyl ester (1 g, 3.27 mmol) in methanol (3 mL) was added hydrochloric acid (1.0 M in ethyl ether) (13.1 mL, 13.1 mmol) and the reaction mixture was stirred at room temperature for 10 hours. The reaction mixture was concentrated under vacuum to provide the title compound as pale yellow solid (0.67 g, quantitative yield) which was used for next step without any further purification.

reactant | [1-(3-morpholin-4-yl-phenyl)ethyl]carbamic acid tert-butyl ester | 3.27 mmol, 1 g | C(C)(C)(C)OC(NC(C)C1=CC(=CC=C1)N1CCOCC1)=O | C17H26N2O3
reactant | hydrochloric acid | 13.1 mmol, 1.0 M, 13.1 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 1-(3-Morpholin-4-yl-phenyl)ethylamine hydrochloride | 0.67 g, quantitative yield | Cl.N1(CCOCC1)C=1C=C(C=CC1)C(C)N | InChI=1S/C12H18N2O.ClH/c1-10(13)11-3-2-4-12(9-11)14-5-7-15-8-6-14;/h2-4,9-10H,5-8,13H2,1H3;1H
